US04105652
Boc-Val-Thr(Bzl)-OH (VIII)
A suspension of H-Thr(Bzl)-OH (3.0 g, 14.34 mmol) in DMF (60 ml) was mixed with Et3N (2 ml) and Boc-Val-OSu (4.96 g, 15.78 mmol) at 0° C for 2 hours and then at 25° C for 24 hours. Acetic acid was added to about pH 3 and the solvents removed under reduced pressure. The product was extracted into EtOAc, washed with 5% AcOH and water, dried (MgSO4) and evaporated to clear oil which crystallized from EtOAc with petroleum ether to yield 4.9 g (83.1%); mp 132°-135° C; [α]D25 +21.5° (c, 1, CHCl3). Anal. Calcd for C21H32N2O6 (408.49): C, 61.74; H, 7.89; N, 6.85. Found: C, 61.61; H, 7.76; N, 6.80.

reactant | H-Thr(Bzl)-OH | 14.34 mmol, 3.0 g | N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)O | C11H15NO3
reactant | Et3N | 2 ml | CCN(CC)CC | C6H15N
reactant | Boc-Val-OSu | 15.78 mmol, 4.96 g | N([C@@H](C(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C14H22N2O6
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Boc-Val-Thr(Bzl)-OH | N([C@@H](C(C)C)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)O)C(=O)OC(C)(C)C | C21H32N2O6
